US06852882B2
Preparation of 5-Bromo-2-chloro-N-[2-(N-formyl-N-hydroxy-amino)-ethyl]-benzamide
A mixture of acetic anhydride (2 mL) and formic acid (1 mL) was allowed to stand at 55° C. for 2.5 h. After cooling to 0° C., the resulting mixed anhydride (0.5 mL) was added to a solution of 5-bromo-2-chloro-N-(2-hydroxyamino-ethyl)-benzamide (0.7 g, 2.4 mmol) in pyridine (6 mL) at 0° C. under an argon atmosphere. The reaction mixture was stirred for 1 h and the pyridine removed in vacuo. The residue was chased twice with water and twice with MeOH. The resulting solid was washed with ether/acetonitrile (9:1) to provide the title compound (0.42 g, 55%) as a white solid. 1H NMR* (400 MHz, CD3OD): δ 8.35 (s, 0.5H); 7.95 (s, 0.5H); 7.58 (m, 2H); 7.38 (m, 1H); 3.78 (m, 1H); 3.73 (m, 1H); 3.62 (m, 2H). * 1:1 mixture of rotamers. ESMS: M+H=321.

reactant | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 1 mL | C(=O)O | CH2O2
reactant | 5-bromo-2-chloro-N-(2-hydroxyamino-ethyl)-benzamide | 2.4 mmol, 0.7 g | BrC=1C=CC(=C(C(=O)NCCNO)C1)Cl | C9H10BrClN2O2
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | 5-Bromo-2-chloro-N-[2-(N-formyl-N-hydroxy-amino)-ethyl]-benzamide | 0.42 g, 55% | BrC=1C=CC(=C(C(=O)NCCN(O)C=O)C1)Cl | C10H10BrClN2O3
